US05900512
A solution of thioanisole (2.48 g, 20 mmol) in methanol (100 mL) in a 250-mL flask was cooled in an ice bath. Stabilized BrCl solution (15 wt. % solution, 18 mL, ~28 mmol) was then added dropwise, with stirring. After the addition, the ice bath was removed, the reaction mixture was allowed to stand at room temperature and the progress of the reaction was monitored by gas chromatography (GC). In less than one hour, the starting material was totally converted to product and the orange-reddish solution turned light yellow. The reaction mixture was quenched with a few drops of sodium sulfite solution, diluted with ethylene dichloride (EDC, 100 mL), and washed with water (100 mL). After phase separation, the colorless organic layer was dried (Na2SO4) and concentrated under reduced pressure to furnish 2.44 g (~87% yield) of methyl phenyl sulfoxide as a colorless oil. GC analysis indicated the presence of ~2% of the corresponding sulfone.

reactant | thioanisole | 20 mmol, 2.48 g | C1(=CC=CC=C1)SC | C7H8S
reactant | BrCl | ~28 mmol, 18 mL | BrCl | BrCl
reactant | methanol | 100 mL | CO | CH4O
product | methyl phenyl sulfoxide | 2.44 g, ~87% yield | C1(=CC=CC=C1)S(=O)C | C7H8OS
